US07220744B2
a) 2-Benzenesulfonyl-3-trifluoromethyl-oxirane
To a solution of 25.4 mmol 3,3,3-trifluoro-1-(phenylsulphonyl)prop-1-ene in 80 ml acetonitrile were added 30.5 mmol peracetic acid (39% solution in acetic acid) and 101 mmol potassium carbonate. The mixture was heated at 60° C. for 4 h. The reaction mixture was then diluted with ethyl acetate/tetrahydrofuran (1:1) and was washed with brine. The organic phase was dried over sodium sulfate and concentrated in vacuo to afford the title compound as a light yellow crystalline solid (yield 90%). EI-MS (m/e): 252.0 (M+, 15%), 125.1 (PhSO+, 100%), 77.2 (Ph+, 37%).

reactant | 3,3,3-trifluoro-1-(phenylsulphonyl)prop-1-ene | 25.4 mmol | FC(C=CS(=O)(=O)C1=CC=CC=C1)(F)F | C9H7F3O2S
reactant | peracetic acid | 30.5 mmol | C(C)(=O)OO | C2H4O3
reactant | potassium carbonate | 101 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 2-Benzenesulfonyl-3-trifluoromethyl-oxirane | yield 90% | C1(=CC=CC=C1)S(=O)(=O)C1OC1C(F)(F)F | C9H7F3O3S
